US06787544B2
In a mixture of 1.0 mL of water and 1.0 mL of ethanol is suspended 0.13 g of 3,5-dihydroxy-6-ethoxycarbonyl-2-pyrazinecarboxamide. At ambient temperature, 0.34 mL of 5 mol/mL sodium hydroxide is added to the suspension, which is then stirred for 16 hours. The reaction mixture is adjusted to pH 2 by adding 1 mol/mL hydrochloric acid. The deposited crystals are collected by filtration and washed with water to obtain 0.07 g of 3,5-dihydroxy-6-carboxy-2-pyrazinecarboxamide.

reactant | 3,5-dihydroxy-6-ethoxycarbonyl-2-pyrazinecarboxamide | 0.13 g | OC=1C(=NC(=C(N1)O)C(=O)OCC)C(=O)N | C8H9N3O5
reactant | sodium hydroxide | 5 mol/mL, 0.34 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 mol/mL | Cl | ClH
solvent | water | 1.0 mL | O | H2O
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | 3,5-dihydroxy-6-carboxy-2-pyrazinecarboxamide | 0.07 g | OC=1C(=NC(=C(N1)O)C(=O)O)C(=O)N | C6H5N3O5
